US07335660B2
2-{(1S)-6-[(Diphenylmethylene)amino]-3,4-dihydro-1H-2-benzopyran-1-yl}ethanol was reacted with methanesulfonyl chloride, as described for the preparation of 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate, to yield 2-{(1S)-6-[(diphenylmethylene)amino]-3,4-dihydro-1H-2-benzopyran-1-yl}ethyl methanesulfonate.

reactant | 2-{(1S)-6-[(Diphenylmethylene)amino]-3,4-dihydro-1H-2-benzopyran-1-yl}ethanol | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C=CC2=C(CCO[C@H]2CCO)C1 | C24H23NO2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C13H17NO5S
product | 2-{(1S)-6-[(diphenylmethylene)amino]-3,4-dihydro-1H-2-benzopyran-1-yl}ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C25H25NO4S
